US08748613B2
(R)-Quinuclidin-3-yl 2-(4-methylpiperidin-1-yl)-2-phenylacetate (58 mg, 0.17 mmol) and 2-bromo-1-phenylethanone (37.1 mg, 0.19 mmol) were dissolved in acetonitrile (3 ml) and stirred at room temperature overnight. The solvent was evaporated and the residue was tritured with Et2O and filtered under vacuum. The recovered solid was further purified by preparative HPLC to obtain (3R)-3-(2-(4-methylpiperidin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide (5 mg, 5.5% yield) as a colorless oil.

reactant | (R)-Quinuclidin-3-yl 2-(4-methylpiperidin-1-yl)-2-phenylacetate | 0.17 mmol, 58 mg | CC1CCN(CC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H30N2O2
reactant | 2-bromo-1-phenylethanone | 0.19 mmol, 37.1 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(4-methylpiperidin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 5 mg, 5.5% yield | [Br-].CC1CCN(CC1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C29H37N2O3.BrH/c1-22-12-16-30(17-13-22)28(25-10-6-3-7-11-25)29(33)34-27-21-31(18-14-24(27)15-19-31)20-26(32)23-8-4-2-5-9-23;/h2-11,22,24,27-28H,12-21H2,1H3;1H/q+1;/p-1/t24?,27-,28?,31?;/m0./s1
